US03962378
100 g of 2-acetoxy-2-methylethane-phosphonic acid dimethyl ester are heated for about 5 hours to 65°-75°C in 200 ml of methanol containing 1 wt.% of HCl. A mixture of methyl acetate/methanol is removed continuously by distillation over a column. The residue is fractionated in high vacuum. 60 g of 2-hydroxy-2-methyl-ethane-phosphonic acid dimethyl ester (b.p.: 125°-127°C/1.5 torr) are obtained, corresponding to a yield of 76% of the theoretical.

reactant | 2-acetoxy-2-methylethane-phosphonic acid dimethyl ester | 100 g | COP(OC)(=O)CC(C)OC(C)=O | C7H15O5P
reactant | HCl | Cl | ClH
reactant | methyl acetate methanol | C(C)(=O)OC.CO
solvent | methanol | 200 ml | CO | CH4O
product | 2-hydroxy-2-methyl-ethane-phosphonic acid dimethyl ester | 60 g, yield of 76% | COP(OC)(=O)CC(C)O | C5H13O4P
